US08030337B2
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-5-pyridin-2-ylpentanamide
To 5-pyridin-2-ylpentanoic acid (72.8 mg, 0.406 mmol) was added thionyl chloride (0.4 mL), and the mixture was heated under reflux for 30 min. Thionyl chloride was evaporated under reduced pressure and the residue was diluted with pyridine (2 mL). The mixture was added to a solution of N-[2-(6-amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) in pyridine (2 mL) under ice-cooling, and the mixture was stirred for 15 min. Water was added, and the mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) to give the title compound (37.7 mg, yield 26%).

reactant | 5-pyridin-2-ylpentanoic acid | 0.406 mmol, 72.8 mg | N1=C(C=CC=C1)CCCCC(=O)O | C10H13NO2
reactant | thionyl chloride | 0.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[2-(6-amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | Water | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-5-pyridin-2-ylpentanamide | 37.7 mg, yield 26% | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(CCCCC1=NC=CC=C1)=O | C23H29N3O3
